US08242260B2
To a solution of 3-bromo-5-nitrophenol (3.1 g, 14.4 mmol) and powdered sodium hydroxide (0.63 g, 15.8 mmol) in DMF (14 mL), sodium chlorodifluoroacetate (4.4 g, 28.7 mmol) was added in five portions every 0.5 hour to the warmed reaction mixture at to 55° C. The reaction was maintained at to 55° C. for 1 day and then allowed to cool to room temperature. The reaction mixture was partitioned between EtOAc and water, the layers separated, and the aqueous portion was extracted (2×25 mL) EtOAc and the combined organic layers were washed with aqueous 1.0 M NaOH solution (3×25 mL), water (3×25 mL) and brine (50 mL). The organic layer was dried (MgSO4), and concentrated. The resulting residue was purified by flash chromatography (SiO2, 0-50% EtOAc in hexanes) to afford 1-bromo-3-(difluoromethoxy)-5-nitrobenzene (160 mg, 0.6 mmol). 1H NMR (400 MHz, CDCl3) δ 6.61 (t, J=71.6 Hz, 1H) 7.65 (s, 1H) 7.96 (s, 1H) 8.21-8.31 (m, 1H).

reactant | 3-bromo-5-nitrophenol | 14.4 mmol, 3.1 g | BrC=1C=C(C=C(C1)[N+](=O)[O-])O | C6H4BrNO3
reactant | sodium hydroxide | 15.8 mmol, 0.63 g | [OH-].[Na+]
reactant | sodium chlorodifluoroacetate | 28.7 mmol, 4.4 g | ClC(C(=O)[O-])(F)F.[Na+]
solvent | DMF | 14 mL | CN(C)C=O | C3H7NO
product | 1-bromo-3-(difluoromethoxy)-5-nitrobenzene | 0.6 mmol, 160 mg | BrC1=CC(=CC(=C1)[N+](=O)[O-])OC(F)F | C7H4BrF2NO3
